US07985762B2
4-(Isopropoxy)-3,5-dimethylbenzaldehyde (1.98 g, 10.3 mmol) in EtOH (60 mL) was heated to 60° C. with hydroxylamine hydrochloride (2.4 M aq. solution, 5.2 mL, 1.2 eq.) and Na2CO3 (1.2 M solution, 5.2 mL, 0.6 eq.) at room temperature for 2 hours. The reaction was transferred to a separatory funnel, diluted with EtOAc; the organic layer was separated, washed with brine, dried (MgSO4), filtered and concentrated to yield 710 mg (3.24 mmol) of 4-(isopropoxy)-3,5-dimethylbenzaldehyde oxime as a light yellow oil. 1H-NMR (500 MHz, CDCl3): 8.10 (s, 1H), 7.23 (s, 2H), 4.29-4.18 (m, 1H), 2.29 (s, 6H), 1.29 (d, 6H).

reactant | 4-(Isopropoxy)-3,5-dimethylbenzaldehyde | 10.3 mmol, 1.98 g | C(C)(C)OC1=C(C=C(C=O)C=C1C)C | C12H16O2
reactant | hydroxylamine hydrochloride | 2.4 M, 5.2 mL, 1.2 eq. | Cl.NO
reactant | Na2CO3 | 1.2 M, 5.2 mL, 0.6 eq. | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 60 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(isopropoxy)-3,5-dimethylbenzaldehyde oxime | 3.24 mmol, 710 mg | C(C)(C)OC1=C(C=C(C=NO)C=C1C)C | C12H17NO2
